US07745641B2
5-Formylindole (200 mg, 1.38 mmol) was dissolved in acetonitrile (2 mL), and the solution was added with di-tert-butyldicarbonate (0.349 mL, 1.52 mmol) and DMAP (1.7 mg, 0.014 mmol), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the residue was dissolved in methanol (2 mL). Trimethyl orthoformate (0.300 mL, 2.75 mmol) and p-toluenesulfonic acid monohydrate (5.2 mg, 0.027 mmol) were added thereto, and the mixture was stirred at room temperature for one hour. An aqueous saturated sodium hydrogen carbonate solution and water were added to the reaction mixture, and the mixture was then extracted with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 1-(tert-butoxycarbonyl)-5-(dimethoxymethyl)indole (396 mg, yield 99%).

reactant | 5-Formylindole | 1.38 mmol, 200 mg | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | di-tert-butyldicarbonate | 1.52 mmol, 0.349 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Trimethyl orthoformate | 2.75 mmol, 0.300 mL | C(OC)(OC)OC | C4H10O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.014 mmol, 1.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | p-toluenesulfonic acid monohydrate | 0.027 mmol, 5.2 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 1-(tert-butoxycarbonyl)-5-(dimethoxymethyl)indole | 396 mg, yield 99% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C(OC)OC | C16H21NO4
